US07601722B2
1-[2-(2,5-diazabicyclo[2.2.1]hept-2-yl)ethyl]-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide
Step 2 In an analogous manner as described in general procedure II, step 2, 1-[2-(2,5-diazabicyclo[2.2.1]hept-2-yl)ethyl]-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide dihydrochloride was prepared from tert-butyl-1-[2-(2,5-diazabicyclo[2.2.1]hept-2-yl)ethyl]-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide-4-carboxylate. MS (ES) m/z 371.2; HPLC purity 100.0% at 210-370 nm, 7.0 minutes; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/minutes 85/15-5/95 (Ammonium formate buffer pH=3.5/ACN+MeOH) for 10 minutes hold 4 minutes.

reactant | 1-[2-(2,5-diazabicyclo[2.2.1]hept-2-yl)ethyl]-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide dihydrochloride | Cl.Cl.C12N(CC(NC1)C2)CCN2S(N(C1=C2C=CC=C1)C1=CC=CC=C1)(=O)=O
reactant | Ammonium formate | pH=3.5 | C(=O)[O-].[NH4+]
solvent | ACN MeOH | C(C)#N.CO
product | 1-[2-(2,5-diazabicyclo[2.2.1]hept-2-yl)ethyl]-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | C12N(CC(NC1)C2)CCN2S(N(C1=C2C=CC=C1)C1=CC=CC=C1)(=O)=O | C19H22N4O2S
